US06835731B2
Preparation of Pyridine-2-sulfonic Acid {4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-phenyl}-amide
Using General Procedure B: Reaction of 5,6,7,8-tetrahydro-quinolin-8-ylamine (68 mg, 0.46 mmol), pyridine-2-sulfonic acid (4-formyl-phenyl)-amide (120 mg, 0.46 mmol), and NaBH(OAc)3 (291 mg, 1.37 mmol) for 1 h at room temperature followed by purification of the crude product by column chromatography on silica gel (CH2Cl2/MeOH/NH4OH 98:1:1) gave the title compound (121 mg, 67%) as a white foam.

reactant | 5,6,7,8-tetrahydro-quinolin-8-ylamine | 0.46 mmol, 68 mg | N1=CC=CC=2CCCC(C12)N | C9H12N2
reactant | pyridine-2-sulfonic acid (4-formyl-phenyl)-amide | 0.46 mmol, 120 mg | C(=O)C1=CC=C(C=C1)NS(=O)(=O)C1=NC=CC=C1 | C12H10N2O3S
reactant | NaBH(OAc)3 | 1.37 mmol, 291 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | Pyridine-2-sulfonic Acid {4-[(5,6,7,8-tetrahydro-quinolin-8-ylamino)-methyl]-phenyl}-amide | 121 mg, 67% | N1=CC=CC=2CCCC(C12)NCC1=CC=C(C=C1)NS(=O)(=O)C1=NC=CC=C1 | C21H22N4O2S
